US04476308
89 ml of hexamethyldisilazane and 0.6 ml of trimethylchlorosilane are added to a suspension of 34.0 g of (R)-4-amino-2-hydroxybutyric acid in 340 ml of anhydrous o-xylene. The mixture is heated to boiling for 4 hours while stirring and then evaporated. The residue is extracted four times with toluene. The combined toluene extracts are evaporated in vacuo, whereupon the residue is distilled in three portions. There is obtained (R)-3-(trimethylsilyloxy)-2-pyrrolidinone of boiling point 90°-100°/0.01 mmHg (bulb-tube).

reactant | hexamethyldisilazane | 89 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylchlorosilane | 0.6 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | (R)-4-amino-2-hydroxybutyric acid | 34.0 g | NCC[C@H](C(=O)O)O | C4H9NO3
solvent | o-xylene | 340 ml | CC=1C=CC=CC1C | C8H10
product | (R)-3-(trimethylsilyloxy)-2-pyrrolidinone | C[Si](O[C@H]1C(NCC1)=O)(C)C | C7H15NO2Si
